US08426449B2
Step 6: [3-(4-Acetylamino-2-{[methoxycarbonyl-((S)-1-methyl-2-phenyl-ethyl)-amino]-methyl}-phenoxy)-phenyl]-acetic acid
To [3-(4-acetylamino-2-{[methoxycarbonyl-((S)-1-methyl-2-phenyl-ethyl)-amino]-methyl}-phenoxy)-phenyl]-acetic acid ethyl ester (0.048 g, 0.09 mmol) in THF (2 mL) was added 1N aqueous lithium hydroxide (2 mL), and the reaction was stirred over the weekend at room temperature. Once no starting material was seen by analytical LCMS, the mixture was acidified with 1N aqueous HCl and extracted with EtOAc. The combined organic layers were dried and concentrated, and the residue was purified by preparative HPLC and converted to the free base with saturated aqueous NaHCO3 to give the title compound. M+H=491.

reactant | [3-(4-acetylamino-2-{[methoxycarbonyl-((S)-1-methyl-2-phenyl-ethyl)-amino]-methyl}-phenoxy)-phenyl]-acetic acid ethyl ester | 0.09 mmol, 0.048 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)NC(C)=O)CN([C@H](CC1=CC=CC=C1)C)C(=O)OC)=O | C30H34N2O6
reactant | lithium hydroxide | 1N, 2 mL | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [3-(4-Acetylamino-2-{[methoxycarbonyl-((S)-1-methyl-2-phenyl-ethyl)-amino]-methyl}-phenoxy)-phenyl]-acetic acid | C(C)(=O)NC1=CC(=C(OC=2C=C(C=CC2)CC(=O)O)C=C1)CN([C@H](CC1=CC=CC=C1)C)C(=O)OC | C28H30N2O6
